US08420052B2
To 6-bromobenzo[d]thiazole-2-thiol (160 mg, 0.65 mmol) and 1-bromo-2-fluoroethane (165 mg, 1.3 mmol) in 5 mL of NMP was added Cs2CO3 (635 mg, 1.95 mmol). The mixture was stirred at rt for 5 hours. It was added water (20 mL) and precipitate was collected through filtration and washed with water (10 mL) and dried under high vacuum. The crude product was purified with silica chromatography (5% to 30% EtOAc in hexane) to afford 6-Bromo-2-(2-fluoroethylthio)benzo[d]thiazole as a yellow solid (88 mg, 46%). MS (ESI) m/z 291.9, 293.9 (M+H+).

reactant | 6-bromobenzo[d]thiazole-2-thiol | 0.65 mmol, 160 mg | BrC1=CC2=C(N=C(S2)S)C=C1 | C7H4BrNS2
reactant | 1-bromo-2-fluoroethane | 1.3 mmol, 165 mg | BrCCF | C2H4BrF
reactant | Cs2CO3 | 1.95 mmol, 635 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 20 mL | O | H2O
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | 6-Bromo-2-(2-fluoroethylthio)benzo[d]thiazole | 88 mg, 46% | BrC1=CC2=C(N=C(S2)SCCF)C=C1 | C9H7BrFNS2
